US04950768
Preparation of Ethylene 1,1-Ethanedisulfonate
The reaction procedure described in Example XIII for the preparation of trimethylene 1,1-ethanedisulfonate was followed, substituting for the 1,3-propane diol used in Example XIII, ethylene glycol (5.0 gram, 0.008 mole). The reaction mixture was stirred for 3 hours at room temperature, the solid amine hydrochloride residue removed, and the filtrate roto-evaporated to remove glyme. The crude product obtained was redissolved in a minimum amount of methylene chloride, and subsequent addition of cyclohexane produced white crystals immediately. Several crops of crystals totaling 5.84 grams were obtained after further addition of cyclohexane and refrigeration. Further recrystallization of the material resulted in a total of 4.37 grams of product, representing a 25.2% yield. The product melting point was between 92° C. and 93° C. Product identification was confirmed by IR spectral features relating to CH3CH and SO2 and proton NMR features relating to CH, CH2 and CH3.

reactant | trimethylene 1,1-ethanedisulfonate | C1(C)S(=O)(=O)OCCCOS1(=O)=O | C5H10O6S2
reactant | 1,3-propane diol | C(CCO)O | C3H8O2
reactant | ethylene glycol | 0.008 mole, 5.0 gram | C(CO)O | C2H6O2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | cyclohexane | C1CCCCC1 | C6H12
product | Ethylene 1,1-Ethanedisulfonate | 4.37 grams, 25.2% yield | C1(C)S(=O)(=O)OCCOS1(=O)=O | C4H8O6S2
